* C:\Users\pavlos\AppData\Local\LTspice\local\my\schematics\Analog\741\741.asc
* Opamp 741 internals
* 1 OFFSET NULL
* 2 INVERTING INPUT
* 3 NON-INVERTING INPUT
* 4 V-
* 5 OFFSET NULL
* 6 OUTPUT
* 7 V+
* https://en.wikipedia.org/wiki/Operational_amplifier
.subckt 741 1 2 3 4 5 6 7
Q1 N001 3 N005 0 NPN
Q2 N001 2 N006 0 NPN
Q3 N010 N008 N005 0 PNP
Q4 N011 N008 N006 0 PNP
Q5 N010 N014 1 0 NPN
Q6 N011 N014 5 0 NPN
Q7 7 N010 N014 0 NPN
R1 1 4 1k
R2 5 4 1k
R3 N014 4 50k
R4 N017 4 5k
Q8 N001 N001 7 0 PNP
Q9 N008 N001 7 0 PNP
Q10 N008 N012 N017 0 NPN
Q11 N012 N012 4 0 NPN
Q12 N002 N002 7 0 PNP
R5 N002 N012 39k
Q13 N003 N002 7 0 PNP
Q14 7 N003 N007 0 NPN
Q15 N003 N007 6 0 NPN
C1 N003 N011 30pF
R6 N003 N004 4.5k
R7 N009 N004 7.5k
Q16 N003 N004 N009 0 NPN
R8 N007 6 25
R9 6 N015 50
R10 N016 4 50
R11 N013 4 50k
Q17 N009 N013 N016 0 NPN
Q18 N011 N016 4 0 NPN
Q19 N009 N011 N013 0 NPN
Q20 4 N009 N015 0 PNP
.model NPN NPN
.model PNP PNP
.lib C:\Users\pavlos\AppData\Local\LTspice\lib\cmp\standard.bjt
.backanno
.ends 741
