* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\BJT\AND_2\and.asc
*
* AND 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
*
.subckt and 1 2 3 4 5
Q1 N001 N002 N003 0 NPN
Q2 N003 N004 5 0 NPN
R1 4 N001 {R}
R2 N002 1 {Rb}
R3 N004 2 {Rb}
C1 3 5 {C}
Q3 3 N001 5 0 NPN
R5 4 3 {R}
.model NPN NPN
.model PNP PNP
.lib C:\Users\pavlos\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R=470
.param Rb=2.7k
.param C=1n
.backanno
.ends and
