* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\BJT\NAND_2\nand.asc
*
* NAND 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
*
.subckt nand 1 2 3 4 5
Q1 3 N001 N002 0 NPN
Q2 N002 N003 5 0 NPN
R1 4 3 {R}
R2 N001 1 {Rb}
R3 N003 2 {Rb}
C1 3 5 {C}
.model NPN NPN
.model PNP PNP
.lib C:\Users\pavlos\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R=470
.param Rb=2.7k
.param C=1n
.backanno
.ends nand
