* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\BJT\NAND_3\nand3.asc
*
* NAND 3 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 5 Vdd
* 6 Vss
*
.subckt nand3 1 2 3 4 5 6
Q1 N004 N005 6 0 NPN
Q2 N002 N003 N004 0 NPN
Q3 4 N001 N002 0 NPN
R1 N005 1 {Rb}
R2 N003 2 {Rb}
R3 N001 3 {Rb}
R4 5 4 {R}
C1 4 6 {C}
.model NPN NPN
.model PNP PNP
.lib C:\Users\pavlos\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R=470
.param Rb=2.7k
.param C=1n
.backanno
.ends nand3

