* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\BJT\NOR_2\nor.asc
* 
* NOR 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
* 
.subckt nor 1 2 3 4 5
Q1 3 N001 5 0 NPN
Q2 3 N002 5 0 NPN
R1 4 3 {R}
R2 N001 1 {Rb1}
R3 N002 2 {Rb2}
.model NPN NPN
.model PNP PNP
.lib C:\Users\pavlos\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R=470
.param Rb1=10k
.param Rb2=2.7k
.backanno
.ends nor


