* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\BJT\NOT\not.asc
* NOT
* 1 In
* 2 Out
* 3 Vdd
* 4 Vss
*
.subckt not 1 2 3 4
Q1 2 N001 4 0 NPN
R1 N001 1 {Rb}
R2 3 2 {R}
C1 2 4 {C}
.model NPN NPN
.model PNP PNP
.lib C:\Users\pavlos\AppData\Local\LTspice\lib\cmp\standard.bjt
.param R=470
.param Rb=2.7k
.param C=1n
.backanno
.ends not






