* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\741\741.asc
* Opamp 741 internals
* 1 OFFSET NULL
* 2 INVERTING INPUT
* 3 NON-INVERTING INPUT
* 4 V-
* 5 OFFSET NULL
* 6 OUTPUT
* 7 V+
* 

.subckt 741 1 2 3 4 5 6 7
R1 1 4 1k
R2 5 4 1k
R3 N014 4 50k
R4 N017 4 5k
R5 N002 N012 39k
C1 N003 N011 30pF
R7 N003 N004 4.5k
R8 N009 N004 7.5k
R9 N005 6 25
R10 6 N015 50
R11 N016 4 50
R12 N013 4 50k
XU1 N001 7 N008 pmos
XU2 3 N001 N006 nmos
XU3 N014 N011 5 nmos
XU4 N010 7 N014 nmos
XU5 N012 N012 4 nmos
XU6 N011 N009 N013 nmos
XU7 N013 N009 N016 nmos
XU8 N003 7 N005 nmos
XU9 N004 N003 N009 nmos
XU10 N002 7 N003 pmos
XU11 N009 N015 4 pmos
XU12 N008 N007 N011 pmos
XU14 N014 N010 1 nmos
XU15 2 N001 N007 nmos
XU16 N012 N008 N017 nmos
XU17 N016 N011 4 nmos
XU18 N005 N003 6 nmos
XU13 N008 N006 N010 pmos
XU19 N002 7 N002 pmos
XU20 N001 7 N001 pmos
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\PMOS\pmos.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NMOS\nmos.lib
.backanno
.ends 741

