* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\2x4_decoder\2x4.asc
*
* 2 to 4 decoder
* 1 A
* 2 B
* 3 EN
* 4 D0
* 5 D1
* 6 D2
* 7 D3
* 8 Vdd
* 9 Vss
*
.subckt 2x4 1 2 3 4 5 6 7 8 9
XU1 1 N001 8 9 not
XU2 2 N002 8 9 not
XU3 3 N003 8 9 not
XU4 N001 N002 N003 4 8 9 nand3
XU5 N001 2 N003 5 8 9 nand3
XU6 1 N002 N003 6 8 9 nand3
XU7 1 2 N003 7 8 9 nand3
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_3\nand3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends 2x4
