* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\4x2_encoder\4x2.asc
*
* 4 to 2 encoder
* 1 D0
* 2 D1
* 3 D2
* 4 D3
* 5 O0
* 6 O1
* 7 Vdd
* 8 Vss
*
.subckt 4x2 1 2 3 4 5 6 7 8
XU8 2 4 5 7 8 or
XU9 3 4 6 7 8 or
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\OR_2\or.lib
.backanno
.ends 4x2
