* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\3x8_decoder\3x8.asc
*
* 3 to 8 decoder
* 1 x
* 2 y
* 3 z
* 4 D0
* 5 D1
* 6 D2
* 7 D3
* 8 D4
* 9 D5
* 10 D6
* 11 D7
* 12 Vdd
* 13 Vss
*

.subckt 3x8 1 2 3 4 5 6 7 8 9 10 11 12 13
XU3 3 N001 12 13 not
XU1 2 N002 12 13 not
XU2 1 N003 12 13 not
XU4 N001 N002 N003 4 12 13 and3
XU5 3 N002 N003 5 12 13 and3
XU6 N001 2 N003 6 12 13 and3
XU7 3 2 N003 7 12 13 and3
XU8 N001 N002 1 8 12 13 and3
XU9 3 N002 1 9 12 13 and3
XU10 N001 2 1 10 12 13 and3
XU11 3 2 1 11 12 13 and3
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\AND_3\and3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends 3x8
