* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\4x2_priority_encoder\4x2_p.asc
*
* 4 to 2 priority encoder
* 1 D0
* 2 D1
* 3 D2
* 4 D3
* 5 O0
* 6 O1
* 7 V
* 8 Vdd
* 9 Vss
*
.subckt 4x2_p 1 2 3 4 5 6 7 8 9
XU8 4 N001 5 8 9 or
XU1 3 N002 8 9 not
XU2 N002 1 N001 8 9 and
XU3 4 3 6 8 9 or
XU4 6 2 1 7 8 9 or3
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\OR_2\or.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\OR_3\or3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\AND_2\and.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends 4x2_p

