* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\AND_3\and3.asc
*
* AND 3 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 5 Vdd
* 6 Vss
*
.subckt and3 1 2 3 4 5 6
XU2 N001 4 5 6 not
C1 N001 6 1p
XU3 1 2 3 N001 5 6 nand3
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_3\nand3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends and3
