* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\Buffer\buffer.asc
* 
* Buffer
* 1 In
* 2 Out
* 3 Vdd
* 4 Vss
*

.subckt buffer 1 2 3 4
XU1 N001 2 3 4 not
XU2 1 N001 3 4 not
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends buffer






