* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\DFF_posedge_w_asy_rst_set\dff_p_w_asy_rst_set.asc
*
* posedge D FF 2 inputs
* 1 D
* 2 Clk
* 3 _rst
* 4 _set
* 5 Q
* 6 _Q
* 7 Vdd
* 8 Vss
* 
.subckt dff_p_w_asy_set_rst 1 2 3 4 5 6 7 8
XU8 N003 2 N001 N004 7 8 nand3
C1 1 8 {C}
C2 2 8 {C}
C3 5 8 {C}
C4 6 8 {C}
XU1 N002 3 2 N003 7 8 nand3
XU2 5 3 N004 6 7 8 nand3
XU9 N004 3 1 N001 7 8 nand3
XU3 N001 4 N003 N002 7 8 nand3
XU4 N003 4 6 5 7 8 nand3
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_3\nand3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_2\nand.lib
.param C 0.1p
.backanno
.ends dff_p_w_asy_set_rst



