* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\D\D.asc
*
* D FF 2 inputs
* 1 D
* 2 EN
* 3 Q
* 4 ~Q
* 5 Vdd
* 6 Vss
*
.subckt d 1 2 3 4 5 6
XU1 N001 4 3 5 6 nand
XU2 3 N002 4 5 6 nand
XU4 1 2 N001 5 6 nand
XU5 2 N003 N002 5 6 nand
XU6 1 N003 5 6 not
C1 0 1 {C}
C2 0 2 {C}
C3 0 3 {C}
C4 4 0 {C}
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_2\nand.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.param C 1f
.backanno
.ends d


