* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\JKFF_posedge\jkff_p.asc
*
* posedge JK FF 2 inputs
* 1 J
* 2 K
* 3 Clk
* 4 Q
* 5 ~Q
* 6 Vdd
* 7 Vss
*
.subckt jkff_p 1 2 3 4 5 6 7
XU1 2 N004 6 7 not
XU2 5 1 N001 6 7 nand
XU3 N004 4 N003 6 7 nand
XU4 N001 N003 N002 6 7 nand
XU5 N002 3 4 5 6 7 dff_p
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\DFF_posedge\dff_p.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_2\nand.lib
.backanno
.ends jkff_p
