* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_CMOS\nand.asc
*
* NAND 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
*
.subckt nand 1 2 3 4 5
XM1 1 4 3 pmos
XM2 1 3 N001 nmos
XM3 2 4 3 pmos
XM4 2 N001 5 nmos
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\PMOS\pmos.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NMOS\nmos.lib
.backanno
.ends nand

