* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_3\nand3.asc
*
* NAND 2 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 5 Vdd
* 6 Vss
*
.subckt nand3 1 2 3 4 5 6
XM1 1 5 4 pmos
XM2 1 4 N001 nmos
XM3 2 5 4 pmos
XM4 2 N001 N002 nmos
XM5 3 N002 6 nmos
XM6 3 5 4 pmos
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\PMOS\pmos.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NMOS\nmos.lib
.backanno
.ends nand3

