* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOR_CMOS\nor.asc
* 
* NOR 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
* 
.subckt nor 1 2 3 4 5
XM1 1 4 N001 pmos
XM2 1 3 5 nmos
XM3 2 N001 3 pmos
XM4 2 3 5 nmos
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\PMOS\pmos.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NMOS\nmos.lib
.backanno
.ends nor


