* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOR_3\nor3.asc
* 
* NOR 3 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 5 Vdd
* 6 Vss
* 
.subckt nor3 1 2 3 4 5 6
XM1 2 N001 N002 pmos
XM2 1 4 6 nmos
XM3 3 N002 4 pmos
XM4 2 4 6 nmos
XM5 1 5 N001 pmos
XM6 3 4 6 nmos

.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\PMOS\pmos.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NMOS\nmos.lib

.backanno
.ends nor3
