* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\OR_2\or.asc
*
* OR 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
*
.subckt or 1 2 3 4 5
XU2 N001 3 4 5 not
C1 N001 5 1p
XU3 1 2 N001 4 5 nor
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOR_2\nor.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends or

