* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\OR_3\or3.asc
*
* OR 2 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 5 Vdd
* 6 Vss
*
.subckt or3 1 2 3 4 5 6
XU2 N001 4 5 6 not
C1 N001 6 1p
XU1 1 2 3 N001 5 6 nor3
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOR_3\nor3.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends or3
