* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\SR_NAND\sr_nand.asc
*
* SR_NAND 2 inputs
* 1 S
* 2 R
* 3 Q
* 4 ~Q
* 5 Vdd
* 6 Vss
*
.subckt sr_nand 1 2 3 4 5 6
* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\SR_NAND\nand.asc
XU1 1 4 3 5 6 nand
XU2 3 2 4 5 6 nand
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_2\nand.lib
.backanno
.ends sr_nand
