* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\XOR\xor.asc
*
* NAND 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
*
.subckt xor 1 2 3 4 5
XU1 1 N002 4 5 not
XU2 2 N004 4 5 not
XU3 2 N002 N001 4 5 nand
XU4 1 N004 N003 4 5 nand
XU5 N001 N003 3 4 5 nand
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NAND_2\nand.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.backanno
.ends xor
