* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\counter 8-bit\counter_8_bit.asc
* 
* 8 bit binary counter with T F/F
* 
* 1 start
* 2 clk
* 3 a0
* 4 a1
* 5 a2
* 6 a3
* 7 a4
* 8 a5
* 9 a6
* 10 a7
* 11 Vdd
* 12 Vss
* 

.subckt counter_8_bit 1 2 3 4 5 6 7 8 9 10 11 12
XU1 N007 2 10 NC_01 11 12 tff_p
XU2 N006 2 9 NC_02 11 12 tff_p
XU3 N005 2 8 NC_03 11 12 tff_p
XU4 N004 2 7 NC_04 11 12 tff_p
XU5 N003 2 6 NC_05 11 12 tff_p
XU6 N002 2 5 NC_06 11 12 tff_p
XU7 N001 2 4 NC_07 11 12 tff_p
XU8 1 2 3 NC_08 11 12 tff_p
XU9 3 1 N001 11 12 and
XU10 4 N001 N002 11 12 and
XU11 5 N002 N003 11 12 and
XU12 6 N003 N004 11 12 and
XU13 7 N004 N005 11 12 and
XU14 8 N005 N006 11 12 and
XU15 9 N006 N007 11 12 and
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\TFF_posedge\Tff_p.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\AND_2\and.lib
.backanno
.ends counter_8_bit
