* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\shift_register\shift_register.asc
*
* posedge shift register made from D FF
* 1 Serial_In
* 2 Clk
* 3 Serial_Out
* 4 Vdd
* 5 Vss
*
.subckt shft_reg 1 2 3 4 5
XU1 1 2 N001 NC_01 4 5 dff_p
XU2 N001 2 N002 NC_02 4 5 dff_p
XU3 N002 2 N003 NC_03 4 5 dff_p
XU4 N003 2 3 NC_04 4 5 dff_p
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\DFF_posedge\dff_p.lib
.backanno
.ends shft_reg

