* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\AND_2\and.asc
*
* AND 2 inputs
* 1 A
* 2 B
* 3 Y
*
.subckt and 1 2 3
C1 3 0 {C}
XX1 3 1 memristor
XX2 3 2 memristor
C2 1 0 {C}
C3 2 0 {C}
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\memristor\memristor.lib
.param C 100p
.backanno
.ends and
