* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\AND_3\and3.asc
*
* AND 3 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 

.subckt and3 1 2 3 4
XX1 4 1 memristor
XX2 4 2 memristor
XX3 4 3 memristor
C1 1 0 {C}
C2 2 0 {C}
C3 3 0 {C}
C4 4 0 {C}
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\memristor\memristor.lib
.param C 100p
.backanno
.ends and3
