* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\DFF\DFF.asc
*
* D FF 2 inputs
* 1 D
* 2 Clk
* 3 Q
* 4 ~Q
* 5 Vdd
* 6 Vss
*
.subckt dff 1 2 3 4 5 6
XX1 1 2 N001 NC_01 5 6 d
XX2 N001 N002 3 4 5 6 d
XU1 2 N002 5 6 not
C1 2 6 1f
C2 N002 6 1f
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\NOT_CMOS\not.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\CMOS\D_latch\d.lib
.backanno
.ends dff
