* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\HA_memristor\ha_m.asc
*
* Half Adder
* 1 x
* 2 y
* 3 S
* 4 C
* 5 Vdd
* 6 Vss
*
.subckt ha_m 1 2 3 4 5 6
XU1 1 2 4 and
XU2 1 2 3 5 6 xor
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\AND_2\and.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\XOR\xor.lib
.ends ha_m

