* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NAND_2\nand.asc
*
* NAND 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
*
.subckt nand 1 2 3 4 5
XU1 1 2 N001 and
XU2 N001 3 4 5 not
C1 N001 5 10p
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NOT_CMOS\not.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\AND_2\and.lib
.backanno
.ends nand

