* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NOR_2\nor.asc
* 
* NOR 2 inputs
* 1 A
* 2 B
* 3 Y
* 4 Vdd
* 5 Vss
* 
.subckt nor 1 2 3 4 5
XU2 N001 3 4 5 not
XU1 1 2 N001 or
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\NOT_CMOS\not.lib
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\OR_2\or.lib
.backanno
.ends nor


