* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\OR_2\or.asc
*
* OR 2 inputs
* 1 A
* 2 B
* 3 Y
*
.subckt or 1 2 3
XX1 1 3 memristor
XX2 2 3 memristor
C1 1 0 {C}
C2 2 0 {C}
C3 3 0 {C}
.param C 10p
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\memristor\memristor.lib
.backanno
.ends or
