* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\OR_3\or3.asc
*
* OR 3 inputs
* 1 A
* 2 B
* 3 C
* 4 Y
* 5 Vdd
* 6 Vss
* 
.subckt or3 1 2 3 4 5 6
XX1 1 4 memristor
XX2 2 4 memristor
XX3 3 4 memristor
C1 1 0 {C}
C2 2 0 {C}
C3 3 0 {C}
C4 4 0 {C}
.lib C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\memristor\memristor.lib
.param C 10p
.backanno
.ends or3
