* C:\Users\pavlos\AppData\Local\LTspice\my\schematics\Hybrid\memristor\memristor.asc
* 
* memristor
* pin 1 plus
* pin 2 minus
* 

.subckt memristor 1 2
Bpm 1 2 I={(V(1)-V(2))/((fo*exp(2*L(V(r))))/L(V(r)))}
Rpm 1 2 {1000*((fo*exp(2*Lo))/Lo)}
Cr r 0 1
Raux r 0 1e12
Br 0 r I={dr_dt(V(1)-V(2))*(u(V(1)-V(2))*u(V(r)-rmin)+u(-(V(1)-V(2)))*u(rmax-V(r)))}
.ic v(r)={rinit}
.func dr_dt(y) {-alpha *((y-VtL)/(gamma+abs(y-VtL)))*u(-y+VtL)-beta*y*u(y-VtL)*u(-y+VtR)-alpha*((y-VtR)/(gamma+abs(y-VtR)))*u(y-VtR)}
.func L(y) {Lo-Lo*m/y}
.param Lo 5
.param fo 310
.param m 82
.param yo 0.0001
.param VtL -1.5
.param VtR 1.5
.param gamma 0.1
.param beta 0
.param alpha 1E9
.param rinit 100
.param rmax 390
.param rmin 100
.backanno
.ends memristor

